US06080781
Synthesis of 3-[(3,4-diethoxyphenyl)methylene]-7-hydroxy-4(4H)-benzopyranone
After a saturated hydrogen chloride-methanol solution 20 ml was added to 7-hydroxy-4(4H)-benzopyranone 1.0 g and 3,4-diethoxybenzaldehyde 1.58 ml, the mixture was srtirred for 72 hours, water 100 ml was added, and the precipitated crystals were filtered. The crystals were added to methanol 60 ml of 55° C., and the mixture was stirred for 15 minutes and filtered. The resulting crystals were dried over phosphorous pentoxide for four hours under reduced pressure to obtain the desired compound 0.762 g.

reactant | hydrogen chloride methanol | 20 ml | Cl.CO
reactant | 7-hydroxy-4(4H)-benzopyranone | 1.0 g | OC1=CC2=C(C(C=CO2)=O)C=C1 | C9H6O3
reactant | 3,4-diethoxybenzaldehyde | 1.58 ml | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
solvent | water | 100 ml | O | H2O
product | 3-[(3,4-diethoxyphenyl)methylene]-7-hydroxy-4(4H)-benzopyranone | 0.762 g | C(C)OC=1C=C(C=CC1OCC)C=C1COC2=C(C1=O)C=CC(=C2)O | C20H20O5
